**** ptat voltage generation circuit *****

.lib "/opt/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt"

.global vdd gnd
.temp 27

	
*** bjt definition
xqp2    gnd     gnd     qp2          sky130_fd_pr__pnp_05v5_W3p40L3p40       m=8

*** high-poly resistance definition
xra1    ra1     na1     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  	l=7.8
xra2    na1     na2     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41	l=7.8
xra3    na2     qp2     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41	l=7.8
xra4    na2     qp2     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41	l=7.8

*** supply voltage and current
isup	vdd	ra1	dc	10u
vsup	vdd	gnd	dc 	2
.dc	temp	-40	125	1

*** control statement
.control
run
plot v(ra1) v(qp2) v(ra1)-v(qp2)
.endc
.end

